US09403832B2
Part C. N1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-N2-methylethane-1,2-diamine
The tert-butoxycarbonyl was removed by dissolving 600 mg (1.62 mmol) of tert-butyl (2-((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)ethyl)(methyl)carbamate in 4 mL of DCM, and then adding 4 mL TFA, stirring for 0.5 hr at rt, and concentrating the mixture to afford the TFA-salt of the desired product in 100% yield (622 mg).

reactant | tert-butyl (2-((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)ethyl)(methyl)carbamate | 1.62 mmol, 600 mg | BrC=1C=NN2C1N=C(C=C2)NCCN(C(OC(C)(C)C)=O)C | C14H20BrN5O2
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-N2-methylethane-1,2-diamine | 100% yield | BrC=1C=NN2C1N=C(C=C2)NCCNC | C9H12BrN5
